US07071184B2
c. Racemic Allyl-(1-methyl-pent-4-enyl)-carbamic acid benzyl ester
Carbobenzyloxy chloride (9.56 g, 8 ml) was added dropwise to a stirred solution of allyl-(1-methyl-pent-4-enyl)-amine (7 g, 50 mmol), triethylamine (5.5 g, 8.0 ml, 57.5 mmol) in CH2Cl2 (100 ml) at 0 C. The reaction mixture was warmed to RT, then was stirred for 2 h. The reaction mixture was diluted with CH2Cl2 (100 ml), then was extracted with water, then brine. The combined organics were dried with MgSO4, filtered, concentrated in vacuo by rotary evaporation, then was chromatographed (silica gel, 4% EtOAc/hexanes) to give the title compound (8.9 g, 65% yield): Liquid Chromatgraphy/Electrospray mass spec: M+H+=274.2.

reactant | Carbobenzyloxy chloride | 8 ml, 9.56 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | allyl-(1-methyl-pent-4-enyl)-amine | 50 mmol, 7 g | C(C=C)NC(CCC=C)C | C9H17N
reactant | triethylamine | 57.5 mmol, 8.0 ml, 5.5 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Racemic Allyl-(1-methyl-pent-4-enyl)-carbamic acid benzyl ester | 8.9 g, 65% yield | C(C1=CC=CC=C1)OC(N(C(CCC=C)C)CC=C)=O | C17H23NO2
